US06214873B1
To a solution of 2-acetamido-1,3-bis(tert-butyldimethylsilyloxy)-2-(2-(4-(1-oxo-5-phenylpentyl)phenyl)ethyl)propane (0.9 g) in tetrahydrofuran (10 ml) was added a solution of tetra-n-butylammonium fluoride (1.2 g) in tetrahydrofuran (5 ml) under ice-cooling, and the mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried over anhydrous magnesium sulfate and the solvent was distilled away under reduced pressure to give 2-acetamido-2-(2-(4-(1-oxo-5-phenylpentyl)phenyl)ethyl)propane-1,3-diol as a residue. The obtained residue was dissolved in water (5 ml)—methanol (5 ml)—tetrahydrofuran (3 ml), and lithium hydroxide monohydrate (0.3 g) was added thereto. The mixture was refluxed under heating for 1.5 hours. The reaction mixture was poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried over anhydrous magnesium sulfate and the solvent was distilled away under reduced pressure to give a white solid. The obtained white solid was recrystallized from ethanol-ethyl acetate-hexane to give the title compound (220 mg) as white crystals, melting point 126-127° C.

reactant | 2-acetamido-1,3-bis(tert-butyldimethylsilyloxy)-2-(2-(4-(1-oxo-5-phenylpentyl)phenyl)ethyl)propane | 0.9 g | C(C)(=O)NC(CO[Si](C)(C)C(C)(C)C)(CO[Si](C)(C)C(C)(C)C)CCC1=CC=C(C=C1)C(CCCCC1=CC=CC=C1)=O | C36H59NO4Si2
reactant | tetra-n-butylammonium fluoride | 1.2 g | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-acetamido-2-(2-(4-(1-oxo-5-phenylpentyl)phenyl)ethyl)propane-1,3-diol | C(C)(=O)NC(CO)(CO)CCC1=CC=C(C=C1)C(CCCCC1=CC=CC=C1)=O | C24H31NO4
